US07326788B2
6-Chloro-4-phenyl-3-pyridin-2-yl-1H-quinolin-2-one
Synthesized from (2-pyridyl)-acetic acid and (2-amino-5-chloro-phenyl)-phenyl-methanone according to general procedure 2 Yield 23%.

reactant | (2-pyridyl)-acetic acid | N1=C(C=CC=C1)CC(=O)O | C7H7NO2
reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
product | 6-Chloro-4-phenyl-3-pyridin-2-yl-1H-quinolin-2-one | Yield 23% | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=NC=CC=C1)C1=CC=CC=C1 | C20H13ClN2O
